datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:62]/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CC[O:62][C:11]([CH:10](C1=CC=CC=C1)[CH:20]([C:21](C[N+]1=CC=C(N(C)C)C=C1)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>C[C:10]([C:20]([S-:21])=[N:31]C1=CC=CC=C1)([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CCN1CC[N:14]2CCN(CC)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23>>CCN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=CC=C1)[CH:61]=[C:62]3N(CC)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[C:10](C)=[CH:11][CH2:62][Si:63](C)(C)C>>COC1=CC=C([CH:20]([C:10](C)(C)[CH+:11][CH2:62][Si:63](C)(C)C)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;20,21=21,22;22,23=23"
C1C[S:31][CH+:20][S:41]C1.CC1(C)C[C:61](=[O:62])[CH-:10][C:71](=[O:72])C1>>CC1(C)C[C:61](=[O:62])[CH:10]([CH:20]2[S:31]CCC[S:41]2)[C:71](=[O:72])C1 10=20
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1.[CH2:10]=[CH:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([CH2:10][CH+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.CN(C)C1=CC=C(/[C:11](=[CH:10]/[S+:61](C)C)[O-:12])C=C1>>CN(C)C1=CC=C([C:11]([CH:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](Br)[CH:45]=[CH:46]2)[S+:61](C)C)=[O:12])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].C[S+:61](C)([CH2-:10])=[O:62]>>CC[O:33][C:22](=[CH:21][CH:20]([CH2:10][S+:61](C)(C)=[O:62])[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C2=CC=CC=C2)[O:12]1.CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC[O:33][C:22](=[CH:21][CH2:20][CH2:10]C1=CC=CC=C1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)C[CH:11]([H:10])[CH2:62][Sn:63](C)(C)C.COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>CC(C)(C)C[CH+:11][CH2:62][Sn:63](C)(C)C.COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[NH+:10]3CCC[C@H]3CN3CCCC3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10=20;20,21=21"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.N#C[C:20]1([H:10])[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.[N-:10]=[C:61]=[S:62]>>C1=CC=C([S:32]([CH-:21][CH2:20][N:10]=[C:61]=[S:62])(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C21C=CC=CC13C54>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[H:10].[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C21C=CC=CC13C54 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>CO[C:62]([CH:61]1CCC[NH+:10]1[CH2:20][CH:21]=[C:22]([O-:23])[O:33]C(C)(C)C)=[O:63] 10=20;20,21=21,22;22,23=23"
